US07183276B2
To a solution of 3-[4-phenyl-2-((E)-2-phenylethenyl)-5-oxazolyl]propionitrile (1.3 g) in ethanol (18 mL) was added 2N aqueous sodium hydroxide solution (9 mL) and the mixture was stirred with heating under reflux for 5 hrs. The reaction mixture was cooled and water was added. The mixture was acidified with 2N aqueous hydrochloric acid solution, and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The precipitated crystals were collected by filtration and recrystallized from ethanol to give 3-[4-phenyl-2-((E)-2-phenylethenyl)-5-oxazolyl]propionic acid (0.9 g, yield 65%) as colorless prism crystals. melting point: 138–139° C.

reactant | 3-[4-phenyl-2-((E)-2-phenylethenyl)-5-oxazolyl]propionitrile | 1.3 g | C1(=CC=CC=C1)C=1N=C(OC1CCC#N)\C=C\C1=CC=CC=C1 | C20H16N2O
reactant | sodium hydroxide | 2N, 9 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 18 mL | C(C)O | C2H6O
product | 3-[4-phenyl-2-((E)-2-phenylethenyl)-5-oxazolyl]propionic acid | 0.9 g, yield 65% | C1(=CC=CC=C1)C=1N=C(OC1CCC(=O)O)\C=C\C1=CC=CC=C1 | C20H17NO3
